US06992087B2
Preparation of 5-bromo-3,6-dimethyl-N-(1,2,3,4-tetrahydronaphthalen-1-yl)pyrazin-2-amine
Following the procedure for the preparation of (1R,2S)-1-[(5-bromo-3,6-diethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol but substituting 3,6-dimethyl-N-(1,2,3,4-tetrahydronaphthalen-1-yl)pyrazin-2-amine and making non-critical variations provided the title compound as a oil: 1H NMR (CDCl3) δ 1.92, 2.08, 2.29, 2.53, 2.86, 4.48, 5.40, 7.21, 7.33; 13C NMR (CDCl3) δ 19.63, 20.32, 23.67, 29.81, 30.00, 49.20, 124.85, 126.66, 127.69, 129.23, 129.63, 137.17, 138.12, 138.25, 148.78, 151.23; MS (ESI+) for C16H18N3Br1 m/z 333.3 (M+H)+.

reactant | (1R,2S)-1-[(5-bromo-3,6-diethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol | BrC=1N=C(C(=NC1CC)N[C@H]1[C@H](CC2=CC=CC=C12)O)CC | C17H20BrN3O
reactant | 3,6-dimethyl-N-(1,2,3,4-tetrahydronaphthalen-1-yl)pyrazin-2-amine | CC=1C(=NC(=CN1)C)NC1CCCC2=CC=CC=C12 | C16H19N3
product | 5-bromo-3,6-dimethyl-N-(1,2,3,4-tetrahydronaphthalen-1-yl)pyrazin-2-amine | BrC=1N=C(C(=NC1C)NC1CCCC2=CC=CC=C12)C | C16H18BrN3
